US04010177
In the manner given in Preparation 39, 8-bromo-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine, potassium iodide and ethylallylamine in tetrahydrofuran are reacted to give 8-bromo-1-[(allylethylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine. Preparation 43 8-(Trifluoromethyl)-1-[(allylmethylamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 8-bromo-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=CC=CC=C3)C1 | C17H12BrClN4
reactant | potassium iodide | [I-].[K+]
reactant | ethylallylamine | C(C)C=CCN | C5H11N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-bromo-1-[(allylethylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CNCCCC=C)C3=CC=CC=C3)C1 | C22H22BrN5
